* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 47k
R2 N003 N002 39k
R3 N003 N001 39k
R4 N001 0 39k
R5 N002 0 1.8
I1 N003 0 0.03

.end